US04727180
To one liter of 1M borane-tetrahydrofuran complex was added a solution of 100 g (0.33 mole) of 3-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]benzeneactic acid in 200 ml of tetrahydrofuran. The solution is refluxed for 16 hours under nitrogen. The solution is then refluxed with 400 ml of 6N hydrochloric acid until evolution of hydrogen is complete. The mixture is filtered and evaporated. The residue is refluxed with 500 ml of methanol containing 10 ml of concentrated hydrochloric acid until methyl borate is no longer evolved. The solution is evaporated, and the residue is distilled at 110°-115° (0.7 mm) to give 37 g of 2-{3-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]phenyl}ethanol.

reactant | 3-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]benzeneactic acid | 0.33 mole, 100 g | FC(C(C(F)(F)F)(O)C=1C=C(C=CC1)CC(=O)O)(F)F | C11H8F6O3
reactant | hydrochloric acid | 6N, 400 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2-{3-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]phenyl}ethanol | 37 g | FC(C(C(F)(F)F)(O)C=1C=C(C=CC1)CCO)(F)F | C11H10F6O2
